US03952021
1.4 g of α-(3,4-dimethoxyphenethylaminomethyl)-3,5-dibenzyloxybenzylalcohol hydrochloride are suspended in a mixture of 32 ml of isopropanol and 8 ml of water. 0.42 g of 10 % palladium-carbon is added to the solution. Then, the mixture is subjected to catalytic hydrogenation in a hydrogen atmosphere at room temperature for 1 hour under atmospheric pressure. After the reaction is completed, the mixture is filtered to remove the catalyst. The filtrate is concentrated under reduced pressure, and the residue thus obtained is recrystallized from a mixture of methanol and ether. 0.6 g of α-(3,4-dimethoxyphenethylaminomethyl)-3,5-dihydroxybenzylalcohol hydrochloride is obtained. Yield: 63.5 % M.p. 193° - 194°C

reactant | α-(3,4-dimethoxyphenethylaminomethyl)-3,5-dibenzyloxybenzylalcohol hydrochloride | 1.4 g | Cl.COC=1C=C(CCNCC(C2=CC(=CC(=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)O)C=CC1OC
reactant | hydrogen | [H][H] | H2
solvent | isopropanol | 32 ml | C(C)(C)O | C3H8O
solvent | water | 8 ml | O | H2O
catalyst | palladium-carbon | 0.42 g | [C].[Pd]
product | α-(3,4-dimethoxyphenethylaminomethyl)-3,5-dihydroxybenzylalcohol hydrochloride | 0.6 g, Yield: 63.5 % | Cl.COC=1C=C(CCNCC(C2=CC(=CC(=C2)O)O)O)C=CC1OC | InChI=1S/C18H23NO5.ClH/c1-23-17-4-3-12(7-18(17)24-2)5-6-19-11-16(22)13-8-14(20)10-15(21)9-13;/h3-4,7-10,16,19-22H,5-6,11H2,1-2H3;1H
